US05914328
5-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyrimidine dihydrochloride
To a sample of 1-methyl-2(S)-pyrrolidinemethanol (Aldrich, 16.81 mmol) in 2 mL of DMF was added 0.74 g of NaH (60% dispersion in oil, 18.49 mmol) and 2.68 g (16.81 mmol) of 5-bromopyrimidine. The reaction mixture was stirred at 60° C. for 18 hours, then poured onto ice. The mixture was diluted with brine, and extracted with methylene chloride. The extract was dried over MgSO4, and the solvent was removed. The residue was chromatographed on silica gel, eluting with 20:1 chloroform:methanol. The compound was then taken up in methylene chloride, HCl in ether was added, and the volatiles removed under vacuum. The salt was recrystallized from acetonitrile/ether to afford 822 mg of the title compound. mp >160° C. (dec). MS (DCI/NH3) m/e: 194 (M+H)+. 1H NMR (D2O, 300 MHz) δ: 8.88 (s, 1H-), 8.65 (s, 2H), 4.64 (dd, J=11.2, 3.1 Hz, 1H), 4.47 (m, 1H), 3.95 (m, 1H), 3.77 (m, 1H), 3.29 (m, 1H), 3.05 (s, 3H), 2.43 (m, 1H), 2.24 (m, 1H), 2.11 (m, 2H). Anal. Calc. for C10H15N3OCl2 : C, 45.13; H, 6.44; N, 15.79; Found C, 45.13; H, 6.74; N, 15.69. [α]25D =-2.6° (c=0.57, methanol).

reactant | 1-methyl-2(S)-pyrrolidinemethanol | 16.81 mmol | CN1[C@@H](CCC1)CO | C6H13NO
reactant | NaH | 18.49 mmol, 0.74 g | [H-].[Na+]
reactant | 5-bromopyrimidine | 16.81 mmol, 2.68 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | brine | [Cl-].[Na+].O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-(1-methyl-2-(S)-pyrrolidinylmethoxy)pyrimidine dihydrochloride | 822 mg | Cl.Cl.CN1[C@@H](CCC1)COC=1C=NC=NC1 | InChI=1S/C10H15N3O.2ClH/c1-13-4-2-3-9(13)7-14-10-5-11-8-12-6-10;;/h5-6,8-9H,2-4,7H2,1H3;2*1H/t9-;;/m0../s1
